US04622318
2-(2-Formamidothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer) (1.06 g) was added to the mixture at 0° C. The mixture was stirred for 30 minutes at the same temperature to give an activated acid solution. On the other hand, to the suspension of benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (2.38 g) in tetrahydrofuran (30 ml) was added bis(trimethylsilyl)urea (2.8 g) at ambient temperature. The mixture was stirred at 48° C. for 30 minutes to give a clear solution. The solution was cooled to -20° C. To this solution was added the activated acid solution obtained above at once at -20° C. The mixture was stirred at -20°~-12° C. for 40 minutes. To this mixture was added a mixture of ethyl acetate (150 ml) and water. The separated organic layer was washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate and concentrated in vacuo to give a solid. The solid was recrystallized from ethyl acetate to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (1.26 g).

reactant | 2-(2-Formamidothiazol-4-yl)-2-methoxyiminoacetic acid | 1.06 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
reactant | benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 2.38 g | NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H25N3O3S2
reactant | bis(trimethylsilyl)urea | 2.8 g | C[Si](C)(C)NC(N[Si](C)(C)C)=O | C7H20N2OSi2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 1.26 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C35H30N6O6S3
